US06352982B1
To a methanol (8 ml) solution of 2-amino-5-chloro-α-(4-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol (0.83 g) were added trimethyl acetaldehyde (220 mg) and acetic acid (170 mg). The mixture was stirred for 10 minutes at room temperature, to which was added sodium cyano borohydride (160 mg). The mixture was stirred overnight at room temperature, to which was added acetic acid ethyl ester (100 ml). The mixture was washed with water and dried over anhydrous Na2SO4. The solvent was then distilled off, and the residue was purified by means of a silica gel column chromatography to give the object 5-chloro-α-(4-tert-butoxycarbonylaminomethylphenyl)-2-neopentylaminobenzyl alcohol (0.99 g) as a colorless oily product.

reactant | methanol | 8 ml | CO | CH4O
reactant | 2-amino-5-chloro-α-(4-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol | 0.83 g | NC1=C(C(C2=CC=C(C=C2)CNC(=O)OC(C)(C)C)O)C=C(C=C1)Cl | C19H23ClN2O3
reactant | trimethyl acetaldehyde | 220 mg | CC(C=O)(C)C | C5H10O
reactant | sodium cyano borohydride | 160 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid ethyl ester | 100 ml | C(C)OC(C)=O | C4H8O2
solvent | acetic acid | 170 mg | C(C)(=O)O | C2H4O2
product | 5-chloro-α-(4-tert-butoxycarbonylaminomethylphenyl)-2-neopentylaminobenzyl alcohol | 0.99 g | ClC=1C=CC(=C(C(C2=CC=C(C=C2)CNC(=O)OC(C)(C)C)O)C1)NCC(C)(C)C | C24H33ClN2O3
